US04155913
0.2 g of 7-chloro-1,3-dihydro-5-(o-nitrophenyl)-2H-thieno[2,3-e]-1,4-diazepine-2-thione are heated to reflux for 5 hours under a nitrogen atmosphere with 0.2 g of acetic acid hydrazide in 30 ml of n-butanol. After evaporation of the solvent, the product is taken up in methylene chloride and extracted several times with 1-N hydrochloric acid, the organic phase being treated portionwise with ether such that it comes to the surface in the separating funnel. After neutralization of the aqueous phase with sodium bicarbonate, the mixture is extracted with methylene chloride, the solvent evaporated after drying over sodium sulphate and the residue made into a paste with ethyl acetate. The resulting crystals are recrystallized from ethyl acetate containing active carbon to give colorless crystals of 2-chloro-9-methyl-4-(o-nitrophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine, melting point 210°-212° C.

reactant | 7-chloro-1,3-dihydro-5-(o-nitrophenyl)-2H-thieno[2,3-e]-1,4-diazepine-2-thione | 0.2 g | ClC1=CC2=C(NC(CN=C2C2=C(C=CC=C2)[N+](=O)[O-])=S)S1 | C13H8ClN3O2S2
reactant | acetic acid hydrazide | 0.2 g | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
product | 2-chloro-9-methyl-4-(o-nitrophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)C)C3=C(C=CC=C3)[N+](=O)[O-] | C15H10ClN5O2S
